US05861421
To a solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-ethynylcyclohexane (0.15 g, 0.42 mmol) and 2-bromopyridine (0.040 mL, 0.42 mmol) in piperidine (2 mL) under an argon atmosphere were added tetrakis(triphenylphosphine)-palladium(0) (0.02 g, 4%), copper(I) iodide (0.005 g, 6%) and a small crystal of triphenylphosphine, and the mixture was heated at 80° C. for 0.5 h. Water was added and the mixture was extracted three times with dichloromethane, the extract was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 35:65 ethyl acetate:hexanes, provided 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(2-pyridylethynyl)cyclohexane as a white foam. mp 41°-42° C. 1H-NMR (400 MHz, CDC3) δ 8.58 (d, J=4.6 Hz, 1H), 7.65 (t, J=7.7 Hz, 1H), 7.43 (d, J=8.0 Hz, 1H), 7.21 (m, 2H), 7.17 (d, J=8.5 Hz, 1H), 6.84 (d, J=8.5 Hz, 1H), 4.81 (m, 1H), 3.99 (s, 4H), 3.84 (s, 3H), 2.25 (m, 2H), 2.15 (m, 4H), 1.8-2.0 (m, 8H), 1.59 (m, 2H).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-ethynylcyclohexane | 0.42 mmol, 0.15 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#C | C22H28O4
reactant | 2-bromopyridine | 0.42 mmol, 0.040 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Water | O | H2O
solvent | piperidine | 2 mL | N1CCCCC1 | C5H11N
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.02 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 0.005 g | [Cu]I
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(2-pyridylethynyl)cyclohexane | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#CC2=NC=CC=C2 | C27H31NO4
